US07625932B2
Preparation of 4-cyano-3-{4-[2-(3-cyano-phenyl)-1-fluoro-ethyl]-phenyl}-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester
Add (diethylamino)sulfur trifluoride (145 uL, 1.1 mmol) to 4-cyano-3-{4-[2-(3-cyano-phenyl)-1-hydroxy-ethyl]-phenyl}-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (0.427 g, 1.0 mmol, prepared in example E-163) in methylene chloride with stirring at −78° C. After 30 minutes, gradually allow the reaction mixture to warm to ambient temperature. After 2 hours, pour the reaction mixture into water and extract with methylene chloride. Combine the organic extracts, wash with water and brine, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes to provide the title compound. Mass spectrum (m/e): 430.0 (M+1).

reactant | (diethylamino)sulfur trifluoride | 1.1 mmol, 145 uL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 4-cyano-3-{4-[2-(3-cyano-phenyl)-1-hydroxy-ethyl]-phenyl}-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.0 mmol, 0.427 g | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C(CC1=CC(=CC=C1)C#N)O)C#N)CC)C | C26H25N3O3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-cyano-3-{4-[2-(3-cyano-phenyl)-1-fluoro-ethyl]-phenyl}-5-ethyl-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)C(CC1=CC(=CC=C1)C#N)F)C#N)CC)C | C26H24FN3O2
